US07026475B2
N-(5-methylsulfamoylnaphthalene-1-yl)-acetamide
1.10 g of 5-acetylaminonaphthalene-1-sulfonyl chloride is dissolved in 8 mL of ethanol and 8 mL of methylamine solution in ethanol are added dropwise. Then the resulting mixture is stirred at reflux temperature for 3.5 hours and the solvent is distilled off in vacuo. The residue is purified by chromatography. Yield: 0.50 g.

reactant | 5-acetylaminonaphthalene-1-sulfonyl chloride | 1.10 g | C(C)(=O)NC1=C2C=CC=C(C2=CC=C1)S(=O)(=O)Cl | C12H10ClNO3S
reactant | methylamine | 8 mL | CN | CH5N
solvent | ethanol | 8 mL | C(C)O | C2H6O
product | N-(5-methylsulfamoylnaphthalene-1-yl)-acetamide | CNS(=O)(=O)C1=C2C=CC=C(C2=CC=C1)NC(C)=O | C13H14N2O3S
